US04221742
Alpha-myrcene (6-methylene-2-methylocta-1,7-diene) is chlorinated to 2-chloromethyl-6-methyleneocta-1,7-diene. This is reacted with dimethyloctyl magnesium chloride to produce 3,7-dimethylene-11,15-dimethylhexadec-1-ene. This compound yields 7-methylene-3,11,15-trimethylhexadec-2-en-1-ol which, when reacted with TMHQ and hydrogenated, produces Vitamin E.

reactant | Alpha-myrcene | C=CC(CCCC(C)=C)=C | C10H16
reactant | 2-chloromethyl-6-methyleneocta-1,7-diene | ClCC(=C)CCCC(C=C)=C | C10H15Cl
reactant | dimethyloctyl magnesium chloride | CC(CCCCCCC)([Mg]Cl)C
product | 3,7-dimethylene-11,15-dimethylhexadec-1-ene | C=C(C=C)CCCC(CCCC(CCCC(C)C)C)=C | C20H36
